US05773463
(±) cis 1-(3,4-Dichlorophenoxy)-2-dimethylaminoindane Hydrochloride (E31)
A solution of (±) cis 2-amino-1-(3,4dichlorophenoxy)indane (0.88 g, 3.0 mmol) in acetonitrile (40 ml) was treated with formaldehyde (2 ml of a 37% aqueous solution, 26 mmol) followed by sodium cyanoborohydride (0.38 g, 6.0 mmol). The mixture was stirred at room temperature for 6 days while maintaining the pH at 5-7 by the addition of glacial acetic acid. The reaction mixture was diluted with diethyl ether and washed with 1M sodium hydroxide followed by brine. The organic layer was dried over Na2 SO4 and concentrated in vacuo. Passage through a short column of neutral alumina eluting with 0.5-1% ethanol in chloroform afforded a colourless oil which was converted into the hydrochloride salt and recrystallised to give the title compound as a colourless solid (0.6 g), m.p. 219°-220° C. (from methanol/ethyl acetate/diethyl ether).

reactant | (±) cis 2-amino-1-(3,4dichlorophenoxy)indane | 3.0 mmol, 0.88 g | N[C@@H]1[C@@H](C2=CC=CC=C2C1)OC1=CC(=C(C=C1)Cl)Cl | C15H13Cl2NO
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | 6.0 mmol, 0.38 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | (±) cis 1-(3,4-Dichlorophenoxy)-2-dimethylaminoindane Hydrochloride | 0.6 g | Cl.ClC=1C=C(O[C@H]2[C@H](CC3=CC=CC=C23)N(C)C)C=CC1Cl | InChI=1S/C17H17Cl2NO.ClH/c1-20(2)16-9-11-5-3-4-6-13(11)17(16)21-12-7-8-14(18)15(19)10-12;/h3-8,10,16-17H,9H2,1-2H3;1H/t16-,17+;/m0./s1
